US05225513
A mixture of 75 g of ethyl N,N-dimethylglycinate, 75 g of 1-methyl-2-piperidylmethanol and 1 g of titanium tetra(n-butoxide) was heated at 45° C. until the amount of ethanol collected indicated the reaction was complete. After cooling a small amount of water was added, the mixture was filtered, and the filtrate was distilled under reduced pressure to provide N-methyl-2-piperidylmethyl N,N-dimethylaminoacetate.

reactant | ethyl N,N-dimethylglycinate | 75 g | CN(CC(=O)OCC)C | C6H13NO2
reactant | 1-methyl-2-piperidylmethanol | 75 g | CN1C(CCCC1)CO | C7H15NO
solvent | ethanol | C(C)O | C2H6O
product | N-methyl-2-piperidylmethyl N,N-dimethylaminoacetate | CN(C)CC(=O)OCC1N(CCCC1)C | C11H22N2O2
